US09302991B2
<Step-1>:1-(6-(2-(2,2,2-trifluoroethoxy)ethoxy)pyridin-3-yl)ethanone
The title compound is prepared in 50% yield (1.67 g, colorless oil) from 1-(6-chloropyridin-3-yl)ethanone (2.0 g, 12.9 mmol) and 2-(2,2,2-trifluoroethoxy)ethanol instead of 2,2,2-trifluoroethanol by the similar manner in Step-1 of Amine-2.

reactant | 1-(6-chloropyridin-3-yl)ethanone | 12.9 mmol, 2.0 g | ClC1=CC=C(C=N1)C(C)=O | C7H6ClNO
reactant | 2-(2,2,2-trifluoroethoxy)ethanol | FC(COCCO)(F)F | C4H7F3O2
product | 1-(6-(2-(2,2,2-trifluoroethoxy)ethoxy)pyridin-3-yl)ethanone | 50% yield | FC(COCCOC1=CC=C(C=N1)C(C)=O)(F)F | C11H12F3NO3
